US06518423B1
0.15 ml of diisopropylamine in tetrahydrofuran (10 ml) was ice-cooled and 1.0 ml of a 1.6 M solution of n-butyllithium in hexane was added thereto. After stirring for 10 minutes, the reaction mixture was cooled to −78° C. After adding 0.15 ml of 2-methylpyridine, the mixture was stirred for 30 minutes and then a solution of 303 mg of methyl(10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)carboxylate in tetrahydrofuran (5 ml) was dropped thereinto. The reaction mixture was brought back to room temperature and distributed into an aqueous solution of ammonium chloride and ethyl acetate. The organic layer was extracted, dried over anhydrous sodium sulfate and filtered. After distilling off the solvent under reduced pressure, the residue was purified by silica gel column chromatography (eluted with n-hexane/ethyl acetate) to thereby give 30 mg of (10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)(pyridin-2-ylmethyl)ketone as yellow crystals. This ketone was further treated by the same method as the one of Example 119 to thereby give 13 mg of the title compound as yellow crystals.

reactant | diisopropylamine | 0.15 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | 2-methylpyridine | 0.15 ml | CC1=NC=CC=C1 | C6H7N
reactant | methyl(10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)carboxylate | 303 mg | COC(=O)C=1C=CC2=C(N(C3=C(S2)N=CC=N3)COC)C1 | C14H13N3O3S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)(pyridin-2-ylmethyl)ketone | 30 mg | COCN1C2=C(SC3=C1C=C(C=C3)C(=O)CC3=NC=CC=C3)N=CC=N2 | C19H16N4O2S
